US06294580B1
1-Benzoxazol-2-yl-pyrrolidin-3-ol
To a stirring solution of 5.1 mL (44.6 mmol) of 2-chlorobenzoxazole in 35 mL of THF at 0° C. was added 4.28 g (49.0 mmol, 1.1 equiv.) of (R)-3-hydroxypyrrolidine and 4.42 mL (32 mmol, 0.72 equiv.) of triethylamine. The resulting solution was stirred 12 h at RT, the precipitate was filtered, washed with THF (3×5 mL), and the filtrate concentrated in vacuo. Purification by silica gel flash column chromatography using hexane/EtOAc 1/1 to EtOAc as eluent afforded 3.74 g of the title compound: low resolution MS (ESP) m/e 205 (MH+).

reactant | 2-chlorobenzoxazole | 44.6 mmol, 5.1 mL | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | (R)-3-hydroxypyrrolidine | 49.0 mmol, 4.28 g, 1.1 equiv. | O[C@H]1CNCC1 | C4H9NO
reactant | triethylamine | 32 mmol, 4.42 mL, 0.72 equiv. | C(C)N(CC)CC | C6H15N
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 1-Benzoxazol-2-yl-pyrrolidin-3-ol | 3.74 g | O1C(=NC2=C1C=CC=C2)N2CC(CC2)O | C11H12N2O2
